US06071927
N-(3-Bromo-4-methoxyphenyl)-N-(2,2,2-trifluoroethyl)acetamide
Acetic anhydride (1.26 ml, 13.4 mmol) was added to a cooled (0° C.) solution of 2-methoxy-5-(2,2,2-trifluoroethylamino)bromobenzene (Description 56, 2.1 g) and triethylamine (1.9 ml, 1.37 g, 13.4 mmol) in dichloromethane and the mixture was heated under reflux for 18 h. The mixture was cooled and the solvent was evaporated under reduced pressure. 1,2-Dichloroethane (20 ml) was added and the mixture was heated under reflux for 24 h. Further acetic anhydride (0.6 ml) and triethylamine (0.95 ml) were added and the mixture was heated under reflux for 24 h., cooled and diluted with dichloromethane (100 ml). The mixture was diluted with water (3×50 ml) and brine (50 ml), dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was triturated with ethyl acetate and the solid was collected and dried in vacuo to give the title compound as an off-white solid (1.28 g, 59%). 1H NMR (360 MHz, CDCl3) δ7.44 (1 H, d, J 2.5 Hz), 7.17 (1 H, dd, J 8.7, 2.5 Hz), 6.93 (1 H, d, J 8.7 Hz), 4.29 (2 H, q, J 8.8 Hz), 3.94 (3 H, s), and 1.90 (3 H, m), m/z (ES+) 326, 328 (M+1).

reactant | Acetic anhydride | 13.4 mmol, 1.26 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-methoxy-5-(2,2,2-trifluoroethylamino)bromobenzene | 2.1 g | COC1=C(C=C(C=C1)NCC(F)(F)F)Br | C9H9BrF3NO
reactant | triethylamine | 13.4 mmol, 1.9 ml, 1.37 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(3-Bromo-4-methoxyphenyl)-N-(2,2,2-trifluoroethyl)acetamide | 1.28 g, 59% | BrC=1C=C(C=CC1OC)N(C(C)=O)CC(F)(F)F | C11H11BrF3NO2
